US04937246
A mixture of 7-methoxy-3,4-dihydro-1-benzoxepin-5(2H)-one (1.9 g), sodium methoxide (2.8 g) and dimethyl carbonate (40 ml) is heated under reflux for 8 hours with stirring. The reaction mixture is treated in a manner as that in Reference Example 11 to give methyl 7-methoxy-5-oxo2,3,4,5-tetrahydro-1-benzoxepin-4-carboxylate as a colorless oily product (1.7 g). This product (1.6 g) is dissolved in a mixture of methylene chloride (20 ml) and methanol (20 ml). To the solution is added sodium borohydride (0.15 g) in limited amounts. The mixture is stirred. After addition of water, the reaction mixture is extracted with methylene chloride. The organic layers are combined, washed with water, and evaporated to dryness. To the residue are added methanol (5 ml) and 1N aqueous solution of sodium hydroxide (8 ml). The mixture is stirred at 60° C. for 30 minutes. To the reaction mixture are added water and ether, and the mixture is shaken, followed by separating the aqueous layer. The aqueous layer is acidified with dilute hydrochloric acid, and extracted with methylene chloride. The organic layers are combined, washed with water, dried, and concentrated under reduced pressure. To the residue are added dioxane (5 ml) and concentrated hydrochloric acid (1.5 ml), and the mixture is stirred at 100° C. for 30 minutes. After addition of water, the reaction mixture is extracted with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate to afford 7-methoxy2,3-dihydro-1-benzoxepin-4-carboxylic acid as colorless scales (0.41 g), m.p. 176°-177° C.

reactant | 7-methoxy-3,4-dihydro-1-benzoxepin-5(2H)-one | 1.9 g | COC=1C=CC2=C(C(CCCO2)=O)C1 | C11H12O3
reactant | sodium methoxide | 2.8 g | C[O-].[Na+]
reactant | dimethyl carbonate | 40 ml | C(OC)(OC)=O | C3H6O3
product | methyl 7-methoxy-5-oxo2,3,4,5-tetrahydro-1-benzoxepin-4-carboxylate | COC=1C=CC2=C(C(C(CCO2)C(=O)OC)=O)C1 | C13H14O5
